US09399646B2
Step 4: Ethyl 5-bromo-2,3-dihydro-1H-indene-2-carboxylate
Lithium chloride (66 mg, 1.55 mmol) was added to a solution of diethyl 5-bromo-1H-indene-2,2(3H)-dicarboxylate (200 mg, 0.58 mmol), DMSO (2 mL), and H2O (0.2 mL). The mixture was stirred overnight at 160° C. After cooled to room temperature, the reaction mixture was diluted with water (20 mL) and extracted with EtOAc (3×15 mL). The combined organic layers were washed with saturated aqueous NaHCO3 (2×20 mL), dried over MgSO4 and concentrated in vacuo to afford the title compound (120 mg, 76%). 1HNMR (400 MHz, DMSO-d6): δ 7.42 (s, 1H), 7.31 (d, 1H), 7.18 (d, 1H), 4.10 (q, 2H), 3.39-3.34 (m, 1H), 3.17-3.01 (m, 4H), 1.19 (t, 3H).

reactant | Lithium chloride | 1.55 mmol, 66 mg | [Cl-].[Li+]
reactant | diethyl 5-bromo-1H-indene-2,2(3H)-dicarboxylate | 0.58 mmol, 200 mg | BrC=1C=C2CC(CC2=CC1)(C(=O)OCC)C(=O)OCC | C15H17BrO4
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
solvent | H2O | 0.2 mL | O | H2O
product | Ethyl 5-bromo-2,3-dihydro-1H-indene-2-carboxylate | 120 mg, 76% | BrC=1C=C2CC(CC2=CC1)C(=O)OCC | C12H13BrO2
